US08039469B2
Preparation of 1-methyl-3-{4-[4-(8-oxa-3-azabicyclo[3.2.1]oct-3-yl)-6-{4-[(pyridin-4-ylcarbamoyl)amino]phenyl}-1,3,5-triazin-2-yl]phenyl}urea
The title compound was prepared by following the procedure of example 462 step 7 using 1-(4-(4-(4-aminophenyl)-6-(8-oxa-3-azabicyclo[3.2.1]octan-3-yl)-1,3,5-triazin-2-yl)phenyl)-3-methylurea and phenyl pyridin-4-ylcarbamate. Yield 51 mg, 4% yield.

reactant | 1-(4-(4-(4-aminophenyl)-6-(8-oxa-3-azabicyclo[3.2.1]octan-3-yl)-1,3,5-triazin-2-yl)phenyl)-3-methylurea | NC1=CC=C(C=C1)C1=NC(=NC(=N1)N1CC2CCC(C1)O2)C2=CC=C(C=C2)NC(=O)NC | C23H25N7O2
reactant | phenyl pyridin-4-ylcarbamate | N1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O | C12H10N2O2
product | 1-methyl-3-{4-[4-(8-oxa-3-azabicyclo[3.2.1]oct-3-yl)-6-{4-[(pyridin-4-ylcarbamoyl)amino]phenyl}-1,3,5-triazin-2-yl]phenyl}urea | 4% yield | CNC(=O)NC1=CC=C(C=C1)C1=NC(=NC(=N1)N1CC2CCC(C1)O2)C2=CC=C(C=C2)NC(NC2=CC=NC=C2)=O | C29H29N9O3
